US06121258
1-Benzyl-3-[(4-methoxyphenyl)sulfonyl]-6-oxo-hexahydro-pyrimidine-4(R)-carboxylic acid (206 mg, 0.5 mmol) is dissolved in N,N-dimethylformamide (20 mL) and is cooled to 0° C. To this is added 1-hydroxybenzotriazole (203 mg, 1.5 mmol), 4-methylmorpholine (0.16 mL, 1.5 mmol) and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide (117 mg, 0.61 mmol) followed, after 20 minutes, with O-benzylhydroxylamine hydrochloride (89 mg, 0.56 mmol). The reaction is stirred for 4 hours at room temperature, water (50 mL) is added and the product is extracted with ethyl acetate (3x). The combined organic phases are washed with water (2x), dried (Na2SO4) and concentrated under reduced pressure to give N-benzyloxy 1-benzyl-3-[(4methoxyphenyl)sulfonyl]-6-oxo-hexahydro-pyrimidine4(R)-carboxamide.

reactant | 1-Benzyl-3-[(4-methoxyphenyl)sulfonyl]-6-oxo-hexahydro-pyrimidine-4(R)-carboxylic acid | 0.5 mmol, 206 mg | C(C1=CC=CC=C1)N1CN([C@H](CC1=O)C(=O)O)S(=O)(=O)C1=CC=C(C=C1)OC | C19H20N2O6S
reactant | 1-hydroxybenzotriazole | 1.5 mmol, 203 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 4-methylmorpholine | 1.5 mmol, 0.16 mL | CN1CCOCC1 | C5H11NO
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide | 0.61 mmol, 117 mg | C(C)N=C=NCCCN(C)C | C8H17N3
reactant | O-benzylhydroxylamine hydrochloride | 0.56 mmol, 89 mg | Cl.C(C1=CC=CC=C1)ON
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
solvent | water | 50 mL | O | H2O
product | N-benzyloxy 1-benzyl-3-[(4methoxyphenyl)sulfonyl]-6-oxo-hexahydro-pyrimidine4(R)-carboxamide | C(C1=CC=CC=C1)ONC(=O)[C@@H]1N(CN(C(C1)=O)CC1=CC=CC=C1)S(=O)(=O)C1=CC=C(C=C1)OC | C26H27N3O6S
